US08309546B2
N-{1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]pyrrolidin-3-yl}methanesulfonamide
N-Methylpyrrolidone (1 ml) was added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine (100 mg, 0.25 mmol) and 3-aminopyrrolidine (130 mg, 1.5 mmol) and the resulting mixture was stirred at 120° C. for 1 hour. The reaction mixture was partitioned with chloroform and saturated brine and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was concentrated under reduced pressure, then triethylamine (100 μl, 0.75 mmol) and mesyl chloride (60 μl, 0.75 mmol) were added to the residue, and the resulting mixture was stirred for 1 hour. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (70 mg, 53%) as a pale yellow solid.

reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine | 0.25 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C(=NC(=NC1)N)C)CC1CC1 | C18H21ClN8O
reactant | 3-aminopyrrolidine | 1.5 mmol, 130 mg | NC1CNCC1 | C4H10N2
reactant | triethylamine | 0.75 mmol, 100 μl | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.75 mmol, 60 μl | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | N-Methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | N-{1-[2-(2-Amino-4-methylpyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]pyrrolidin-3-yl}methanesulfonamide | 70 mg, 53% | NC1=NC=C(C(=N1)C)C1=NC(=C2N=C(N(C2=N1)CC1CC1)N1CC(CC1)NS(=O)(=O)C)N1CCOCC1 | C23H32N10O3S
